US08728518B2
Preparation of Butylphthalide Self-emulsification Soft Capsules
100 g of gelatin, 30 g of glycerin, 130 g of water and 200 mg of ethylparaben are used. An appropriate amount of water is added into gelatin, allowing it to absorb water and to swell. Glycerin, ethylparaben and residual water are placed into a tank and heated to a temperature of 70 to 80° C., and homogeneously mixed. Swollen gelatin is added with agitation, melted, incubated for 1 to 2 hrs, and kept rest for foams to float up. The floating foams are then scraped, and the remainder is filtered through a clean white cloth and kept warm for further use. The viscosity of the resulting gum liquid is generally 2.8 to 3.2 degree.

reactant | glycerin | 30 g | OCC(O)CO | C3H8O3
reactant | ethylparaben | 200 mg | C(C)OC(=O)C1=CC=C(O)C=C1 | C9H10O3
solvent | water | O | H2O
solvent | water | 130 g | O | H2O
product | Butylphthalide | C(CCC)C1OC(=O)C2=CC=CC=C12 | C12H14O2
